US06462198B1
2,2-Diphenyl-N-(5-propyl-oxazol-2-yl)-acetamide.
The title compound, white solid, m.p. 122° C. and MS: m/e=320.2 (M+) was prepared in accordance with the general method of example 44a from 5-propyl-oxazol-2-ylamine and 2,2-diphenylacetic acid chloride.

reactant | 5-propyl-oxazol-2-ylamine | C(CC)C1=CN=C(O1)N | C6H10N2O
reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | 2,2-Diphenyl-N-(5-propyl-oxazol-2-yl)-acetamide | C1(=CC=CC=C1)C(C(=O)NC=1OC(=CN1)CCC)C1=CC=CC=C1 | C20H20N2O2
